US04654433
In a similar manner 1.09 grams (0.0105 mole) of serine, 1.76 grams (0.02 mole) of lithium bromide, 2.02 grams (0.0118 mole) of benzyl bromide and 16 grams of N-methylpyrrolidinone were stirred together at 25° C. for 16 hours and at 50° C. for 3 hours to obtain the desired benzyl α-amino-β-hydroxypropionate product. High pressure liquid chromatographic assay indicated a 86 percent yield of the desired product.

reactant | serine | 0.0105 mole, 1.09 grams | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | lithium bromide | 0.02 mole, 1.76 grams | [Br-].[Li+]
reactant | benzyl bromide | 0.0118 mole, 2.02 grams | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N-methylpyrrolidinone | 16 grams | CN1C(CCC1)=O | C5H9NO
product | benzyl α-amino-β-hydroxypropionate | NC(C(=O)OCC1=CC=CC=C1)CO | C10H13NO3
